US07282512B2
Preparation of {1-[(4-methyl-1,3-thiazol-2-yl)methyl]cyclobutyl}methanol
The title compound was prepared using the same experimental procedure as in examples 18f and 18g from 2-{1-[(benzyloxy)methyl]cyclobutyl}ethanethioamide and 1-bromo-4,4,4-trifluoro-2-butanone. 1H NMR (300 MHz, CDCl3) δ 7.25 (s, 1H), 3.35 (s, 2H), 2.82 (br s, 2H), 2.02-1.91 (m, 6H).

reactant | 2-{1-[(benzyloxy)methyl]cyclobutyl}ethanethioamide | C(C1=CC=CC=C1)OCC1(CCC1)CC(N)=S | C14H19NOS
reactant | 1-bromo-4,4,4-trifluoro-2-butanone | BrCC(CC(F)(F)F)=O | C4H4BrF3O
product | {1-[(4-methyl-1,3-thiazol-2-yl)methyl]cyclobutyl}methanol | CC=1N=C(SC1)CC1(CCC1)CO | C10H15NOS
